US08357711B2
Methyl 3-chloro-4-(chlorosulfonyl)benzoate
To a suspension of methyl 4-amino-3-chlorobenzoate (33 g, 146 mmol, 1 eq) in a 1:1 mixture of concentrated HCl and water (140 ml) cooling in an ice/MeOH bath was added a solution of sodium nitrite (11.1 g, 160 mmol, 1.1 eq) in warm water (20 ml) dropwise, ensuring that the reaction temperature was maintained below 5° C. The mixture was filtered through a pad of Celite and the solids washed with water. The resulting filtrate was added portionwise to a mixture of sulphur dioxide (47 g, 729 mmol, 5 eq) and copper (I) chloride (catalytic) in AcOH, maintaining the reaction temperature below 10° C. The reaction mixture was extracted into DCM (600 ml), washed with water (600 ml), dried over sodium sulphate, filtered and the solvent evaporated in vacuo. The residue was redissolved in DCM, washed with saturated sodium hydrogen carbonate, dried over sodium sulphate, filtered and evaporated in vacuo. The crude material was purified by column chromatography eluting with 0-15% ethyl acetate:hexane then triturated with hexane to yield the title compound (19.6 g, 73.6 mmol, 50%).

reactant | methyl 4-amino-3-chlorobenzoate | 146 mmol, 33 g, 1 eq | NC1=C(C=C(C(=O)OC)C=C1)Cl | C8H8ClNO2
reactant | HCl | Cl | ClH
reactant | sodium nitrite | 160 mmol, 11.1 g, 1.1 eq | N(=O)[O-].[Na+]
reactant | sulphur dioxide | 729 mmol, 47 g, 5 eq | S(=O)=O | O2S
solvent | water | 20 ml | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
catalyst | copper (I) chloride | [Cu]Cl
solvent | water | 140 ml | O | H2O
product | Methyl 3-chloro-4-(chlorosulfonyl)benzoate | 73.6 mmol, 19.6 g, 50% | ClC=1C=C(C(=O)OC)C=CC1S(=O)(=O)Cl | C8H6Cl2O4S
